US05354769
1-ethyl-2-(benzofuran-2-yl)imidazole hydrochloride
This was prepared from 2-(benzofuran-2-yl)imidazole hydrochloride and ethyl bromide according to the procedure of example 2; m.p.=183°-185° C.

reactant | 2-(benzofuran-2-yl)imidazole hydrochloride | Cl.O1C(=CC2=C1C=CC=C2)C=2NC=CN2
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 1-ethyl-2-(benzofuran-2-yl)imidazole hydrochloride | Cl.C(C)N1C(=NC=C1)C=1OC2=C(C1)C=CC=C2 | InChI=1S/C13H12N2O.ClH/c1-2-15-8-7-14-13(15)12-9-10-5-3-4-6-11(10)16-12;/h3-9H,2H2,1H3;1H
